US07151102B2
n-Butyllithium (1.6M solution in hexane; 200 ml, 0.32 mol) was added dropwise under nitrogen at −10° C. to a stirred solution of N-(2-methoxyphenyl)pivalamide (27.6 g, 0.133 mol) in tetrahydrofuran (600 ml), the mixture was allowed to warm to ambient temperature, stirred for a further 2 hours, then it was added to a large excess of crushed solid carbon dioxide. The mixture was allowed to warm to ambient temperature, 3M hydrochloric acid (200 ml) was added and the tetrahydrofuran was removed in vacuo. The resulting solid was collected by filtration and crystallised from acetonitrile to give 3-methoxy-2-pivalamidobenzoic acid (21 g; 63%) as a solid, m.pt. 117–120° C. Concentration of the liquor yielded a second crop (2.6 g; 8%).

reactant | n-Butyllithium | 0.32 mol, 1.6M, 200 ml | C(CCC)[Li]
reactant | N-(2-methoxyphenyl)pivalamide | 0.133 mol, 27.6 g | COC1=C(C=CC=C1)NC(C(C)(C)C)=O | C12H17NO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 3M, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 3-methoxy-2-pivalamidobenzoic acid | 21 g, 63% | COC=1C(=C(C(=O)O)C=CC1)NC(C(C)(C)C)=O | C13H17NO4
